* C:\users\igor-emlid\My Documents\LTspiceXVII\Lab1\comparator_test.asc
XX1 N001 N002 N003 N005 N007 N008 N010 N011 N004 N006 N009 comparator
V1 N001 0 PULSE(0 1 1n 10p 10p 2n 4n)
C1 N004 0 100f
R1 N004 0 100k
C2 N009 0 100f
R2 N009 0 100k
C3 N006 0 100f
R3 N006 0 100k
V2 N002 0 PULSE(0 1 1n 10p 10p 4n 8n)
V3 N003 0 PULSE(0 1 1n 10p 10p 8n 16n)
V4 N005 0 PULSE(0 1 1n 10p 10p 16n 32n)
V5 N007 0 PULSE(0 1 1n 10p 10p 32n 64n)
V6 N008 0 PULSE(0 1 1n 10p 10p 64n 128n)
V7 N010 0 PULSE(0 1 1n 10p 10p 128n 256n)
V8 N011 0 PULSE(0 1 1n 10p 10p 258n 512n)

* block symbol definitions
.subckt comparator a0 a1 a2 a3 b0 b1 b2 b3 bg e ag
XX1 a1 b1 N009 N004 N010 N016 one_comp
XX2 a2 b2 N010 N005 N011 N014 one_comp
XX3 a3 b3 N011 N007 e N012 one_comp
XX4 a0 b0 N008 N001 N009 N018 one_comp
V1 N008 0 1
XX5 N001 N004 N002 nand
XX6 N002 N002 N003 nand
XX7 N003 P001 bg nand
XX8 N006 N006 P001 nand
XX9 N005 N007 N006 nand
XX10 N016 N018 N017 nand
XX11 N017 N017 N015 nand
XX12 P002 N015 ag nand
XX13 N013 N013 P002 nand
XX14 N012 N014 N013 nand
.include 90nm_bulk.txt
.ends comparator

.subckt one_comp a b pe notl e notg
XX1 a a N001 nand
XX2 b b N006 nand
XX3 N001 pe N002 nand
XX4 N002 N002 N003 nand
XX5 pe N006 N011 nand
XX6 N011 N011 N012 nand
XX7 N003 b notl nand
XX8 a N012 notg nand
XX9 N001 N006 N004 nand
XX10 N004 N004 N005 nand
XX11 a b N009 nand
XX12 N009 N009 N010 nand
XX13 N005 pe N007 nand
XX14 pe N010 N008 nand
XX15 N007 N008 e nand
.ends one_comp

.subckt nand x y c
M1 c y N001 N002 PMOS l=90n w=400n
M2 c x N001 N003 PMOS l=90n w=400n
M3 c x P001 N004 NMOS l=90n w=200n
M4 P001 y 0 N005 NMOS l=90n w=200n
V1 N001 0 1
.include 90nm_bulk.txt
.ends nand

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\igor-emlid\My Documents\LTspiceXVII\lib\cmp\standard.mos
.include 90nm_bulk.txt
.tran 0 512n 0 1p
.backanno
.end
